US05218115
1-(2,4-Dinitrophenyl)-2-(chloromethyl)imidazole
2-(Chloromethyl)imidazole hydrochloride (920 mg) was dissolved in 5 ml of acetonitrile. To this solution was added 830 μL of 2,4-dinitrofluorobenzene and 2.5 g of potassium carbonate. The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic layer was dried (sodium sulfate) and concentrated. The crude reaction product was purified by flash silica gel chromatography (1:1 ethyl acetate-hexane elution) to give 710 mg of the title compound as a yellow solid.

reactant | 2-(Chloromethyl)imidazole hydrochloride | 920 mg | Cl.ClCC=1NC=CN1
reactant | 2,4-dinitrofluorobenzene | 830 μL | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-(2,4-Dinitrophenyl)-2-(chloromethyl)imidazole | 710 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NC=C1)CCl | C10H7ClN4O4
